US08809371B2
TFA (1 ml) was added to a chloroform (1 ml) solution containing tert-butyl(5-(1H-pyrrol-1-yl)pyridin-3-yl)carbamate (36 mg) obtained in the 1st step, followed by stirring at room temperature for 1 hour. Then, the solvent was distilled away under reduced pressure and the residue was added to a mixture of chloroform, water, and a 1M sodium hydroxide aqueous solution, followed by extraction with chloroform. The resultant was dried over anhydrous sodium sulfate, the solvent was distilled away under reduced pressure, and a light brown solid of 5-(1H-pyrrol-1-yl)pyridin-3-amine (23 mg) was thus obtained.

reactant | TFA | 1 ml | C(=O)(C(F)(F)F)O | C2HF3O2
reactant | tert-butyl(5-(1H-pyrrol-1-yl)pyridin-3-yl)carbamate | 36 mg | C(C)(C)(C)OC(NC=1C=NC=C(C1)N1C=CC=C1)=O | C14H17N3O2
solvent | chloroform | 1 ml | C(Cl)(Cl)Cl | CHCl3
product | 5-(1H-pyrrol-1-yl)pyridin-3-amine | 23 mg | N1(C=CC=C1)C=1C=C(C=NC1)N | C9H9N3
